US05149859
Synthesis of N-hydroxy-N-(1-hydroxy-2-naphthyl)-3-methoxycarbonylpropionamide
To a solution of a 1.68 g (ca. 7.9 mmol) of 1-hydroxy-2-naphthylhydroxylamine hydrochloride in THF (10 ml) and water (2 ml) was added, 1.7 ml (12 mmol) of triethylamine, followed by addition of a solution of 300 mg (2 mmol) of acid chloride of 3-methoxycarbonylpropionic acid in THF (2 ml). The mixture was stirred at room temperature for 30 minutes, the reaction was completed by an addition of aqueous KHSO4, the mixture was extracted with methylene chloride, and the organic layer was dried over anhydrous magnesium sulfate.

reactant | 1-hydroxy-2-naphthylhydroxylamine hydrochloride | ca. 7.9 mmol, 1.68 g | Cl.OC1=C(C=CC2=CC=CC=C12)NO
reactant | triethylamine | 12 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methoxycarbonylpropionic acid | COC(=O)CCC(=O)O | C5H8O4
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-hydroxy-N-(1-hydroxy-2-naphthyl)-3-methoxycarbonylpropionamide | ON(C(CCC(=O)OC)=O)C1=C(C2=CC=CC=C2C=C1)O | C15H15NO5
